US07176242B2
Step 2: 1-Tert-butyl 6-methyl 4-butyl-3,4-dihydroquinoxaline-1,6(2H)-dicarboxylate
A solution of 1-tert-butyl 6-methyl 4-butyl-3-oxo-3,4-dihydroquinoxaline-1,6(2H)-dicarboxylate (440 mg) and 9-BBN dimer (600 mg) in tetrahydrofuran (10 mL) was heated at 65° C. for 10 h. The mixture was cooled to room temperature, ethanolamine (0.15 mL) was added and the resulting solution was concentrated under reduced pressure. The residue was washed with hexanes, filtered, and the filtrate was concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 ethyl acetate/hexanes) afforded 158 mg of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.50, 7.34, 7.28, 3.88, 3.77, 3.38–3.30, 1.65–1.51, 1.42–1.34, 0.99–0.94.

reactant | 1-tert-butyl 6-methyl 4-butyl-3-oxo-3,4-dihydroquinoxaline-1,6(2H)-dicarboxylate | 440 mg | C(CCC)N1C(CN(C2=CC=C(C=C12)C(=O)OC)C(=O)OC(C)(C)C)=O | C19H26N2O5
reactant | 9-BBN dimer | 600 mg | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | ethanolamine | 0.15 mL | C(O)CN | C2H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-Tert-butyl 6-methyl 4-butyl-3,4-dihydroquinoxaline-1,6(2H)-dicarboxylate | 158 mg | C(CCC)N1CCN(C2=CC=C(C=C12)C(=O)OC)C(=O)OC(C)(C)C | C19H28N2O4
